US05504082
2-Mercaptobenzimidazole (1.5 g) was dissolved in ethanol (20 ml) and thereto were added ethyl 2-dimethylamino-3-(2-chloromethyl-3-methyl-4-pyridylthio)propionate (3.16 g) and an aqueous solution (10 ml) of 1N sodium hydroxide. The mixture was stirred at 50° C. for 1 hour. The reaction mixture was concentrated under reduced pressure and water was added to the residue. The mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and the solvent was distilled away under reduced pressure. The residue was subjected to column chromatography and eluted with chloroform-methanol to give 2-((3-methyl-4-(2-dimethylamino-2-ethoxycarbonylethylthio)-2-pyridyl)methylthio)-1H-benzimidazole as a pale yellow oil.

reactant | 2-Mercaptobenzimidazole | 1.5 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | ethyl 2-dimethylamino-3-(2-chloromethyl-3-methyl-4-pyridylthio)propionate | 3.16 g | CN(C(C(=O)OCC)CSC1=C(C(=NC=C1)CCl)C)C | C14H21ClN2O2S
reactant | sodium hydroxide | 1N, 10 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-((3-methyl-4-(2-dimethylamino-2-ethoxycarbonylethylthio)-2-pyridyl)methylthio)-1H-benzimidazole | CC=1C(=NC=CC1SCC(C(=O)OCC)N(C)C)CSC1=NC2=C(N1)C=CC=C2 | C21H26N4O2S2
